US06576630B1
A solution comprised of 2-bromopyridine (0.291 mL, 3.06 mmol) in dry THF (2 mL) was cooled to −78° C. and then a solution of n-butyllithium (1.6 mL, 2.72 mmol) in pentane was added dropwise over 2 minutes. The mixture was stirred at −78° C. for 10 minutes and then a solution of benzyl 1-[1-(N-methoxy-N-methylcarbamoyl)-3-phenylpropylcarbamoyl]-3-methylbutylcarbamate (0.3 g, 0.64 mmol) in THF (2 mL) was added slowly. The mixture was stirred, while allowing to slowly warm to room temperature, and then poured into a solution comprising acetic acid (0.163 mL) in diethyl ether (50 mL). The organic phase was washed with brine (40 mL), dried (MgSO4) and concentrated in vacuo. Product was purified from the residue by flash chromatography on silica gel eluting with 1:2 ethyl acetate/hexanes to provide benzyl 3-methyl-1-(1-pyrid-2-ylcarbonyl-3-phenylpropylcarbamoyl)butylcarbamate (82 mg, 0.17 mmol) as a white solid. MS (ESI) m/z=488 (M+1); 1H NMR (CDCl3): δ 0.8-1.05 (d, J=4 Hz, 6H), 1.5 (m, 1H), δ 1.6-1.78 (t, 2H), δ 1.99-2.20 (m, 1H), δ 2.6-2.9 (m, 1H), δ 2.55-2.85 (m, 2H), δ 4.25 (m, 1H), δ 5.17 (s, 2H), δ 5.25 (m, 1H), δ 6.00 (m, 1H), δ 6.85-6.95 (d, J=10 Hz, 1H), δ 7.1-7.4 (m, 10H) 7.50(t, J=4 Hz, 1H), δ 7.85 (t, J=6 Hz, 1H) 8.01 (d, J=8 hz, 1H), δ 8.69 (m, 1H). Anal (C29H33N3O4).

reactant | 2-bromopyridine | 3.06 mmol, 0.291 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 2.72 mmol, 1.6 mL | C(CCC)[Li]
reactant | benzyl 1-[1-(N-methoxy-N-methylcarbamoyl)-3-phenylpropylcarbamoyl]-3-methylbutylcarbamate | 0.64 mmol, 0.3 g | CON(C(=O)C(CCC1=CC=CC=C1)NC(=O)C(CC(C)C)NC(OCC1=CC=CC=C1)=O)C | C26H35N3O5
reactant | acetic acid | 0.163 mL | C(C)(=O)O | C2H4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | benzyl 3-methyl-1-(1-pyrid-2-ylcarbonyl-3-phenylpropylcarbamoyl)butylcarbamate | 0.17 mmol, 82 mg | CC(CC(C(NC(CCC1=CC=CC=C1)C(=O)C1=NC=CC=C1)=O)NC(OCC1=CC=CC=C1)=O)C | C29H33N3O4
